US06395766B1
6,6-Dimethyl-3-phenyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one
A solution of 3-bromo-6,6-dimethyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one (100 mg, 0.31 mmol), phenylboronic acid (153 mg, 1.25 mmol), tetrakis(triphenylphosphine)palladium (50 mg, 0.04 mmol) and Na2CO3 (197 mg, 1.9 mmol) in ethylene glycol dimethyl ether (10 mL) and water (4 mL) was heated at reflux for 8 h. The solvent was evaporated and the residue partitioned between DCM and aqueous K2CO3 (10% (w/v)). The organic layer was separated and the aqueous phase re-extracted with DCM (2×). The combined organic layers were washed with water, dried (MgSO4) and evaporated. The residue was chromatographed on silica gel, eluting with isohexane: EtOAc (9:1), to afford the title compound (60 mg, 61%) as a yellow solid. mp 160-162° C. Found: C, 78.23; H, 6.26; N, 8.57%. Calc. C21H20N2O.0.35(H2O): C, 78.16; H, 6.47; N, 8.68%. 1H NMR (360 MHz, CDCl3) δ 1.13 (6H,s), 2.45 (2H,s), 2.99 (2H,s), 7.17 (1H,s), 7.24-7.38 (5H,m), 7.67 (2H,d, J=7.2 Hz), 7.86 (1H,d of t, J=7.9 and 1.9 Hz), 8.56-8.61 (1H,m). MS (ES+) 317 (M+1).

reactant | 3-bromo-6,6-dimethyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one | 0.31 mmol, 100 mg | BrC1=CN(C=2CC(CC(C12)=O)(C)C)C1=NC=CC=C1 | C15H15BrN2O
reactant | phenylboronic acid | 1.25 mmol, 153 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 1.9 mmol, 197 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 10 mL | COCCOC | C4H10O2
solvent | water | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.04 mmol, 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6,6-Dimethyl-3-phenyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one | 60 mg, 61% | CC1(CC(C=2C(=CN(C2C1)C1=NC=CC=C1)C1=CC=CC=C1)=O)C | C21H20N2O
